US08084448B2
B. 5-[2-Benzyloxy-4-(3-butyloxiranyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a stirred solution of 5-[2-benzyloxy-4-((E)-hex-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (10 mg, 0.275 mmol) in acetone (10 mL) is added a solution of DMDO (0.56 mM, 4.9 mL, 0.413 mmol) in acetone. This mixture is stirred at RT for 1 h, at which point LCMS of the reaction shows clean conversion to the desired epoxide. The reaction mixture is diluted with EtOAc and concentrated 3× to fully remove the volatile DMDO. The remaining EtOAc is removed under reduced pressure to afford the title compound which is used directly in the next step.

reactant | 5-[2-benzyloxy-4-((E)-hex-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.275 mmol, 10 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\CCCC)N1CC(NS1(=O)=O)=O | C21H24N2O4S
reactant | DMDO | 0.413 mmol, 0.56 mM, 4.9 mL | CC1(OO1)C | C3H6O2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[2-Benzyloxy-4-(3-butyloxiranyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1OC1CCCC)N1CC(NS1(=O)=O)=O | C21H24N2O5S
